US08389527B2
14B. Preparation of 8-(cyclopropylamino)-6-((trans)-4-(3-pyridin-3-ylureido)cyclohexylamino)-N-(pyrimidin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide
6-Chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(pyrimidin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (70 mg, 0.156 mmol) and trans-1,4-diaminocyclohexane (533 mg, 4.67 mmol) were heated together at 160° C. for 1.5 hrs. The reaction mixture was suspended in water, filtered through a Buchner funnel, dried under high vacuum and taken to the next step without further purification. The crude product from the above reaction (40.0 mg, 0.076 mmol) was dissolved in DCM (1 mL) and treated with 3-isocyanatopyridine (9.11 mg, 0.076 mmol). The reaction mixture was stirred at room temperature for 30 minutes, concentrated, and treated with TFA (1.168 mL, 15.16 mmol). The reaction mixture was heated at 70° C. for 1 hr, concentrated and purified by preparative HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 30% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA)) to isolate the title compound, 8-(cyclopropylamino)-6-((trans)-4-(3-pyridin-3-ylureido)cyclohexylamino)-N-(pyrimidin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (18.4 mg, 46%), as a white solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA). Rt=1.59 (M+H=528.28). 1H NMR (400 MHz, MeOD) δ ppm 9.27 (1H, d, J=2.27 Hz), 9.03 (1H, s), 8.71 (1H, d, J=6.04 Hz), 8.36-8.49 (2H, m), 8.32 (1H, ddd, J=8.69, 2.52, 1.13 Hz), 8.12 (1H, s), 7.95 (1H, dd, J=8.81, 5.54 Hz), 6.11 (1H, s), 3.98 (1H, s), 3.66 (1H, s), 2.60 (1H, ddd, J=6.86, 3.34, 3.15 Hz), 2.22-2.38 (2H, m), 2.08 (2H, d, J=10.58 Hz), 1.73 (2H, dd, J=12.46, 2.64 Hz), 1.31-1.57 (2H, m), 0.80-0.99 (2H, m), 0.55-0.78 (2H, m).

reactant | 6-Chloro-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(pyrimidin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.156 mmol, 70 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=NC=NC=C2)N(CC2=CC=C(C=C2)OC)C2CC2 | C22H20ClN7O2
reactant | trans-1,4-diaminocyclohexane | 4.67 mmol, 533 mg | N[C@@H]1CC[C@H](CC1)N | C6H14N2
reactant | 3-isocyanatopyridine | 0.076 mmol, 9.11 mg | N(=C=O)C=1C=NC=CC1 | C6H4N2O
reactant | TFA | 15.16 mmol, 1.168 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 8-(cyclopropylamino)-6-((trans)-4-(3-pyridin-3-ylureido)cyclohexylamino)-N-(pyrimidin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 18.4 mg, 46% | C1(CC1)NC=1C=2N(N=C(C1)N[C@@H]1CC[C@H](CC1)NC(=O)NC=1C=NC=CC1)C(=CN2)C(=O)NC2=NC=NC=C2 | C26H29N11O2
